Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / atorvastatin / lemon oil / metronidazole / walnut 
/ strawberry
 
Attending: ___.
 
Chief Complaint:
Abdmominal pain
 
Major Surgical or Invasive Procedure:
Ultrasound-guided drainage of right-lobe liver cyst.
 
History of Present Illness:
Ms. ___ is a ___ female with PMH of GERD and H. 
pylori with 2 weeks of persistent right upper quadrant abdominal 
pain. The patient reports the pain is sharp and radiates to the 
back. Laying on her left side improves the pain and inspiration 
makes it worse. She had a recent ultrasound that brought up the 
possibility of a superinfected cyst of the liver. An MRI of the 
abdomen showed a liver abscess/infected hepatic thick walled 
hyperenhancing 3 cm mass as well as multiple other liver cysts 
without enhancement. She was transferred here for further 
management.

Of note, patient was recently treated for H. pylori and placed 
on Prevpac ___. She was not able to complete her antibiotics 
course because she started developing body rash. She also 
presented with LLQ pain and diagnosed with diverticulitis so was 
placed on course of Avelox on ___. LLQ abdominal pain was 
slowly improving, however, started developing right sided 
abdominal
pain. She was seen on ___ with complaints of abdominal 
bloating, nausea, and worsening reflux symptoms. She did not 
note diarrhea, hematochezia, or melenic stools. Due to right 
upper quadrant abdominal pain, blood work done to rule out any 
biliary etiology which blood work showed unremarkable CBC, LFTs, 
BMP, and amylase. Due to urinary symptoms she was placed on 
Macrobid twice daily. She was seen again on ___, KUB showed 
non-specific gas pattern. The impression was constipation and 
she received treatment for it. Because of its persistence, her 
PCP did an ultrasound and subsequent MRI which showed the above 
findings.

The patient reports recent travel in ___ to ___ where she 
felt well until she came back. She reports eating salads and 
fish and did not have any abdominal pain or diarrhea while 
there. Her husband traveled with her and has not had any 
symptoms.
 
Past Medical History:
-Obesity
-Allergic Rhinitis
-Hyperlipidemia
-Diverticulitis
-GERD
-H. Pylori Infection
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VS:  97.8 PO 129 / 82 L Sitting 64 18 98 Ra 
GENERAL: NAD  
HEENT: anicteric sclera, pink conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: obese, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

DSICHARGE PHYSICAL EXAM:
========================
VS: T 98.8, BP 124/76, HR 69, RR 18, Sa 97% RA 
GENERAL: Pleasant woman NAD, appears younger than stated age,
reclining in bed.
EYES: EOMI
ENT: Good dentition, moist mucosa
CV: Normal S1 and S2, RRR, no murmurs, rubs, or gallops
RESP: CTAB
GI: BS in all 4 quadrants, nontender to light palpation, 
slightly
tender in the RUQ at drain site. Normal liver span.
GU: No suprapubic tenderness.
MSK: No joint swelling or tenderness.
SKIN: No rashes or lacerations.
NEURO: A&O x3, moving all 4 limbs antigravity, fully cooperative
with exam.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:51PM   WBC-8.2 RBC-4.57 HGB-12.7 HCT-38.8 MCV-85 
MCH-27.8 MCHC-32.7 RDW-12.7 RDWSD-38.8
___ 06:51PM   NEUTS-56.5 ___ MONOS-7.8 EOS-2.2 
BASOS-0.5 IM ___ AbsNeut-4.65 AbsLymp-2.70 AbsMono-0.64 
AbsEos-0.18 AbsBaso-0.04
___ 06:51PM   ___ PTT-28.2 ___
___ 06:51PM   ALBUMIN-4.4
___ 06:51PM   LIPASE-35
___ 06:51PM   ALT(SGPT)-24 AST(SGOT)-18 ALK PHOS-81 TOT 
BILI-0.4
___ 06:51PM   GLUCOSE-122* UREA N-15 CREAT-0.9 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-23 ANION GAP-17
___ 06:55PM   LACTATE-1.8
___ 07:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD*

DISCHARGE LABS:
===============
___ 06:15AM BLOOD WBC-6.7 RBC-4.52 Hgb-12.6 Hct-38.9 MCV-86 
MCH-27.9 MCHC-32.4 RDW-12.5 RDWSD-39.8 Plt ___
___ 06:15AM BLOOD Glucose-97 UreaN-21* Creat-0.8 Na-143 
K-5.0 Cl-105 HCO3-23 AnGap-15
___ 06:16AM BLOOD ALT-22 AST-20 LD(LDH)-223 AlkPhos-78 
TotBili-0.4
___ 06:15AM BLOOD Calcium-9.4 Phos-4.1 Mg-2.1
___ 06:55PM BLOOD Lactate-1.8

IMAGING:
========
ULTRASOUND GUIDED ABSCESS DRAINAGE ___

FINDINGS:  
  
Limited preprocedure ultrasound once again demonstrated a 
collection in the periphery of segment 6 of the liver which was 
targeted for drainage as 
described above. 
  
IMPRESSION:  
  
Successful US-guided placement of ___ pigtail catheter into 
the liver 
collection.  Samples was sent for microbiology evaluation. 

 
Brief Hospital Course:
PATIENT SUMMARY:
================
___ female with PMH of GERD and H. pylori who 
presentswith 2 weeks of persistent RUQ abdominal pain following 
recenttravel to ___ with MRI showing hepatic abscess of 
unclear etiology now s/p ___ drain.

ACUTE ISSUES:
=============
#Liver abscess
On the day of admission, the patient underwent ultrasound-guided 
drainage of the hepatic abscess with placement of a pigtail 
drain. Thick, green paste-like material was drained from the 
abscess with minimal drainage in the days following the 
procedure. The material was sent for gram stain and culture, 
which is pending. Likely pyogenic abscess related to transient 
bacteremia in the setting of diverticular disease. Infectious 
Disease was consulted who recommended serology for E 
histiolytica and Echinococcus. Throughout the ___ hospital 
course, her LFTs and white count were within normal limits and 
the patient remained hemodynamically stable and afebrile. Given 
her clinical stability, antibiotic therapy was deferred during 
the patient's hospitalization. On the day of discharge, she was 
started on ciprofloxacin 500 mg PO BID and metronidazole 500 mg 
PO TID for 2 week course with plans for follow-up and possible 
narrowing of antibiotic course once additional results are 
available. While patient previously reported a history of 
metronidazole intolerance due to a history of drug rash while 
taking triple therapy for H. pylori infection, Infectious 
Disease noted that metronidazole is rarely associated with a 
drug rash and the patient's reaction was more likely 
attributable to amoxicillin, and the patient could safely be 
started on metronidazole.

CHRONIC ISSUES:
===============
# Allergic Rhinitis: The patient was continued on her home 
zyrtec
# Hyperlipidemia: The patient was continued on her home 
pravastatin
# GERD: The patient was continued on her home omeprazole

TRANSITIONAL ISSUES:
====================
# Follow up outstanding microbiology data
# Follow up Echinococcus and E histiolytica serology
# Patient will require an Infectious Disease appointment for 
repeat liver ultrasound and consideration of further antibiotic 
treatment within 2 weeks.
# If microbiology results are positive for S. millerii or 
Klebsiella, consider malignancy workup as these pathogens are 
associated with increased risk of GI malignancy.
# H. pylori. Consider alternate tx given pt's intolerance to 
triple therapy. 
# Repeat imaging will be needed in the future to assess for 
interval resolution of hepatic abscess. 
# Patient discharged home with liver abscess drain in place. She 
will need ___ follow-up (pending at time of discharge) for 
interval assessment and further management of drain.

NEW MEDICATIONS: 
- Oxycodone 2.5 mg (Dispense 3 tabs, take 1 tab QHS, to be 
finished ___
- Metronidazole 500mg (Take 1 tab TID x 2 wks; ___, 
___
- Ciprofloxacin 500mg (Take 1 tab BID x 2 wks; ___, 
___

CHANGED MEDICATIONS: None

HELD MEDICATIONS: None

CONTACT: Husband ___, ___
CODE STATUS: Full code

___ is clinically stable for discharge today.  On the 
day of discharge, greater than 30 minutes were spent in the 
planning, communication, and coordination of discharge.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Pravastatin 20 mg PO QPM 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic (eye) BID 

5. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 14 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*27 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H Duration: 14 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*41 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q8H:PRN Pain - 
Severe Duration: 3 Days 
Please do not operate heavy machinery or drive after taking this 
medication. 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every 8 
hours Disp #*4 Tablet Refills:*0 
4.  Cetirizine 10 mg PO DAILY  
5.  Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic (eye) 
BID  
6.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
========
Liver abscess
Gastroesophageal reflux disease
Diverticulitis 

SECONDARY:
==========
H. pylori infection 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___! 

WHY WERE YOU IN THE HOSPITAL?
- You were in the hospital because you had an infection in your 
liver. 

WHAT HAPPENED IN THE HOSPITAL?
- You had a number of blood tests performed to test for 
infection.
- The abscess in your liver was drained through a tube, and 
studies to see what caused the infection were sent out. 
- You were seen by our infectious disease colleagues who 
recommended starting antibiotics to treat the infection. You 
will continue these medications for 2 weeks and follow up with 
the infectious disease doctors after leaving the hospital.

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- Take all of your medications as prescribed.
- Follow up with your doctors as ___ below. 
- Return to the hospital if you experience worsening abdominal 
pain or if you develop fevers, chills, nausea, vomiting, 
diarrhea or other symptoms that concern you.

We wish you the best!
Your ___ Care Team
 
Followup Instructions:
___